US04010154
To a solution of 0.5 g of 2-(β-methylsulfonylethyl)amino- 5-chlorobenzophenone in 20 ml of dry methylene chloride is added 0.5 g of oxazolidine-2,5-dione. To the mixture is added 20 ml of ethereal hydrogen chloride under cooling. The mixture is stirred at room temperature. After completion of the reaction, the mixture is poured into ice water, basified with aqueous ammonia and extracted with methylene chloride. The extracts are combined and dried over anhydrous sodium sulfate, and the solvent is removed under reduced pressure. The residue is added with isopropyl alcohol to form crystals. Recrystallization from acetone gives 1-(β-methylsulfonylethyl)-5-phenyl-7-chloro-1,3-dihydro-2H-1,4-benzodiazepin-2-one as colorless leaflets, m.p. 218° - 219° C.

reactant | 2-(β-methylsulfonylethyl)amino- 5-chlorobenzophenone | 0.5 g | CS(=O)(=O)CCNC1=C(C(=O)C2=CC=CC=C2)C=C(C=C1)Cl | C16H16ClNO3S
reactant | oxazolidine-2,5-dione | 0.5 g | O1C(NCC1=O)=O | C3H3NO3
reactant | hydrogen chloride | 20 ml | Cl | ClH
reactant | ammonia | N | H3N
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 1-(β-methylsulfonylethyl)-5-phenyl-7-chloro-1,3-dihydro-2H-1,4-benzodiazepin-2-one | CS(=O)(=O)CCN1C(CN=C(C2=C1C=CC(=C2)Cl)C2=CC=CC=C2)=O | C18H17ClN2O3S
